US05416118
Step A Add DIBAL-H (83.8 mL, 83.8 mmol, 1M in THF) dropwise to a -78° C. solution of 2-(4'-methoxy-phenyl)-1,2,3,4-tetrahydronaphthalen-1-one (7.15 g, 27.94 mmol) in anhydrous THF (150 mL). Allow the reaction to come to room temperature overnight. Cool the mixture to 0° C. and quench with sodium sulfate decahydrate. Stir the mixture overnight, then vacuum filter and thoroughly wash the filtercake with THF. Concentrate the filtrate in vacuo, then chromatograph the resulting oil on silica gel using 20% EtOAc/hexanes to give a solid. Recrystallize from EtOAc/hexane to obtain 4.84 g (67%) of 2-(4'-methoxyphenyl)-1,2,3,4-tetrahydronaphthalen-1-ol, mp 89°-90.5° C.

reactant | DIBAL-H | 83.8 mmol, 1M, 83.8 mL | CC(C)C[AlH]CC(C)C
reactant | 2-(4'-methoxy-phenyl)-1,2,3,4-tetrahydronaphthalen-1-one | 27.94 mmol, 7.15 g | COC1=CC=C(C=C1)C1C(C2=CC=CC=C2CC1)=O | C17H16O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(4'-methoxyphenyl)-1,2,3,4-tetrahydronaphthalen-1-ol | 4.84 g, 67% | COC1=CC=C(C=C1)C1C(C2=CC=CC=C2CC1)O | C17H18O2
